US06916822B2
A solution of 2-bromoanisole (0.25 ml) dissolved in tetrahydrofuran (5 ml) was added with magnesium (48.6 mg) and stirred at 60° C. for 1 hour to prepare a Grignard reagent. This solution was cooled to −78° C., added with a solution of tributyl borate (0.65 ml) dissolved in tetrahydrofuran (5 ml) and gradually warmed to room temperature with stirring for 20 hours. The reaction mixture was added with saturated aqueous ammonium chloride (10 ml) with ice cooling, stirred for 10 minutes and then extracted twice with ether (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain (2-methoxyphenyl)boric acid.

reactant | 2-bromoanisole | 0.25 ml | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | 48.6 mg | [Mg] | Mg
reactant | tributyl borate | 0.65 ml | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2-methoxyphenyl)boric acid | COC1=C(C=CC=C1)OB(O)O | C7H9BO4
